US04232026
Step A: Preparation of 11-benzoyl-7-cyano-4,9-dimethyl-4,9-diazatricyclo[6.2.2.02,7 ]dodec-11-ene
A solution of 12.12 g (50 mM) of 7,11-dicyano-4,9-dimethyl-4,9-diazatricyclo[6.2.2.02,7 ]dodec-11-ene in 150 ml of dried THF is cooled in dry ice-acetone and treated with 26 ml of 1.67 molar (43.5 mM) phenyl lithium in benzene over a 15 minute period. The reaction mixture is allowed to stir at room temperature overnight and then treated with 50 ml of 2.5 N hydrochloric acid. The layers are separated and the tetrahydrofuranbenzene layer is extracted with 20 ml of 1 N hydrochloric acid. The combined product-containing hydrochloric acid layers are washed with methylene chloride and allowed to sit at room temperature for 2 hours. After making alkaline with 5 ml of 50% sodium hydroxide solution the product is extracted into a total of 125 ml of methylene chloride which after drying over MgSO4, and concentration yields 11.35 g of a crude product. By chromatography over silica gel 11-benzoyl-7-cyano-4,9-dimethyl-4,9 -diazatricyclo[6.2.2.02,7 ]dodec-11-ene is isolated analytically pure in an overall yield of 16%, m.p. 120°-139° C., NMR and IR spectrum are in accord with the structure.

reactant | 7,11-dicyano-4,9-dimethyl-4,9-diazatricyclo[6.2.2.02,7 ]dodec-11-ene | 50 mM, 12.12 g | C(#N)C12CCN(CC1C1CN(C2C=C1C#N)C)C | C14H18N4
reactant | phenyl lithium | 1.67 molar | C1(=CC=CC=C1)[Li]
reactant | hydrochloric acid | 2.5 N, 50 ml | Cl | ClH
reactant | THF | 150 ml | C1CCOC1 | C4H8O
solvent | dry ice acetone | C(=O)=O.CC(=O)C
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 11-benzoyl-7-cyano-4,9-dimethyl-4,9-diazatricyclo[6.2.2.02,7 ]dodec-11-ene | yield of 16% | C(C1=CC=CC=C1)(=O)C=1C2C3CN(CCC3(C(N(C2)C)C1)C#N)C | C20H23N3O
